US06713471B1
To a solution of cyclopropyl-(4-fluorophenyl)ketone (520 mg, 3.17 mmol) in THF (10 mL) was added 4-fluorophenyl magnesium bromide dropwise at 0° C. under N2 atmosphere. The reaction mixture was stirred for 1 h at 0° C., quenched by addition of brine and extracted with Et2O. The organic layer was then washed with NaHCO3 saturated aqueous solution and brine. It was then dried over MgSO4, filtered, concentrated in vacuo to give crude bis(4-fluorophenyl)-cyclopropylmethanol. It was used for ring opening reaction by following the procedure for formation of 4-chloro-1,1-diphenyl-1-butene without further purification. 1,1-Bis(4-fluorophenyl)-4-chloro-1-butene (780 mg, 88%) was obtained as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ2.57 (q, 2H, J=6.9 Hz), 3.58 (t, 2H, J=6.9 Hz), 6.04 (t, 1H, J=7.3 Hz), 6.92-7.21 (m, 8H) ppm.

reactant | cyclopropyl-(4-fluorophenyl)ketone | 3.17 mmol, 520 mg | C1(CC1)C(=O)C1=CC=C(C=C1)F | C10H9FO
reactant | 4-fluorophenyl magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 4-chloro-1,1-diphenyl-1-butene | ClCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,1-Bis(4-fluorophenyl)-4-chloro-1-butene | 780 mg, 88% | FC1=CC=C(C=C1)C(=CCCCl)C1=CC=C(C=C1)F | C16H13ClF2
